US04588732
To a solution of 200 mg of 5-(4-ethoxycarbonylbuta-1,3-dienyl)imidazo[1,5-a]pyridine in 20 ml of methanol is added 4 ml of 1N sodium hydroxide. The reaction mixture is stirred at room temperature for 18 hours. The methanol is evaporated under reduced pressure and the residue diluted with 20 ml of water and the solution is adjusted to pH 5 with hydrochloric acid. The precipitate is collected to give 5-(4-carboxybuta-1,3-dienyl)-imidazo[1,5-a]pyridine, melting at 243°-245°.

reactant | 5-(4-ethoxycarbonylbuta-1,3-dienyl)imidazo[1,5-a]pyridine | 200 mg | C(C)OC(=O)C=CC=CC1=CC=CC=2N1C=NC2 | C14H14N2O2
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 5-(4-carboxybuta-1,3-dienyl)-imidazo[1,5-a]pyridine | C(=O)(O)C=CC=CC1=CC=CC=2N1C=NC2 | C12H10N2O2
